US07067529B2
To a stirred solution of [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester (200 mg, 0.47 mmol) in ethyl acetate (4 mL) was added selenium dioxide (65 mg, 0.59 mmol). The reaction mixture was heated at 85° C. for 1 hr. The solvent was evaporated and afford a crude product. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 40% ethyl acetate/hexane) afforded [1-(3-sec-butoxy-benzoyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester as a light brown oil (170 mg, 83% yield).

reactant | [1-(3-sec-butoxy-benzyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester | 0.47 mmol, 200 mg | COC(CC1=CN=C(C2=CC(=C(C=C12)OC)OC)CC1=CC(=CC=C1)OC(C)CC)=O | C25H29NO5
reactant | selenium dioxide | 0.59 mmol, 65 mg | [Se](=O)=O | O2Se
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | [1-(3-sec-butoxy-benzoyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid methyl ester | 170 mg, 83% yield | COC(CC1=CN=C(C2=CC(=C(C=C12)OC)OC)C(C1=CC(=CC=C1)OC(C)CC)=O)=O | C25H27NO6
